US06924276B2
Step (c): Preparation of 3-bromoacetyl-1-(tert-butoxycarbonyl)-indole
To a stirred solution of 3-acetyl-1-(tert-butoxycarbonyl)-indole, which may be prepared as described in Step (b) above, (0.01 mol), in THF at a temperature of about −80° C. to about 25° C. is added bromine (0.01 mol), and the mixture is stirred from about 5 minutes to about 24 hours. Reaction progress may be followed by TLC or HPLC. When a sufficient amount of desired product is formed, the mixture (or, optionally, the residue which is obtained after first rotary evaporating off the reaction solvent) is partitioned between ethyl acetate and an excess of an aqueous solution of sodium bisulfite or an aqueous solution of sodium thiosulfate. The organic layer is washed with water, then brine, dried over sodium sulfate, and rotary evaporated to give 3-bromoacetyl-1-(tert-butoxycarbonyl)-indole, which may be purified, if needed or desired, by chromatography on silica gel or crystallization.

reactant | 3-acetyl-1-(tert-butoxycarbonyl)-indole | C(C)(=O)C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H17NO3
reactant | bromine | 0.01 mol | BrBr | Br2
solvent | THF | C1CCOC1 | C4H8O
product | 3-bromoacetyl-1-(tert-butoxycarbonyl)-indole | BrCC(=O)C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H16BrNO3
